US08664380B2
tert-butyl (3R,5S)-3-amino-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (250 mg) was dissolved in toluene (5 ml), diphenylphosphoryl azide (0.15 ml) and triethylamine (94 μl) were added and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was cooled to room temperature, 8M aqueous sodium, hydroxide solution (0.56 ml) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate and the mixture was extracted twice with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1-1:0) and ethyl acetate-methanol (10:1) was concentrated under reduced pressure to give the object product (155 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 250 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CCCCOC)C1=CC=CC=C1)C(=O)O | C29H43N5O6
reactant | diphenylphosphoryl azide | 0.15 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium | 8M | [Na] | Na
reactant | hydroxide | 0.56 ml | [OH-]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 94 μl | C(C)N(CC)CC | C6H15N
product | tert-butyl (3R,5S)-3-amino-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 155 mg | N[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CCCCOC)C1=CC=CC=C1)C(=O)OC(C)(C)C | C28H44N6O4
